* Z:\Documents\workspace\hardware\FlexModules\sensors\ECGADCBuffer\notched\sims\ECGACTNTCHLPBFR.asc
XU1 N006 OUT1 N001 0 OUT1 TSX561
R1 N003 N002 27K tol=1%
R2 N004 N003 27K tol=1%
R3 N007 OUT1 15K
C1 N003 OUT1 0.22µ
C2 N007 N002 0.1µ
C3 N004 N007 0.1µ
V1 N001 0 3.3
V2 N002 0 SINE(0 3.3 5000 0)
R6 N001 N004 56k tol=1%
R4 N005 N004 220k
C4 N004 0 0.0033µ
C5 OUT1 N005 0.0047µ
R5 N006 N005 68k
C7 N006 0 0.00033µ
.lib TSX561.sub
.tran 0 5s 0s .001s
.backanno
.end
