* Z:\Documents\workspace\hardware\FlexModules\sensors\ECGADCBuffer\notched\sims\ECGACTNTCHLPBFR2.asc
R1 N003 N002 68K tol=1%
R2 N004 N003 68K tol=1%
R3 N007 OUT1 22K
C1 N003 OUT1 .1µ
C2 N007 N002 .047µ
C3 N004 N007 .047µ
V1 N001 0 3.3
V2 N002 0 SINE(0 3.3 5000)
R4 N005 N004 220k
C4 N004 0 0.001µ
C5 OUT1 N005 0.001µ
R5 N006 N005 130k tol=1%
C7 N006 0 0.00047µ
R6 N001 N006 470k
XU1 N006 OUT1 N001 0 OUT1 TSX561
.lib TSX561.sub
.tran 0 2s 0s .001s
.backanno
.end
